US07786165B2
3-[4-({4-[(3,5-diphenyl-1H-pyrazol-1-yl)methyl]-3-isopropoxybenzyl}amino)-2-fluorophenyl]propanoic acid dihydrochloride
3-[4-({4-[(3,5-Diphenyl-1H-pyrazol-1-yl)methyl]-3-isopropoxybenzyl}amino)-2-fluorophenyl]propanoic acid (0.40 g, 0.71 mmol) was dissolved in ethyl acetate (4.0 mL), and 4 N hydrogen chloride/ethyl acetate solution (0.53 mL, 2.1 mmol) was added. The precipitated crystals were collected by filtration, washed with ethyl acetate and dried to give the title compound (0.41 g, yield 90%) as colorless crystals.

reactant | 3-[4-({4-[(3,5-Diphenyl-1H-pyrazol-1-yl)methyl]-3-isopropoxybenzyl}amino)-2-fluorophenyl]propanoic acid | 0.71 mmol, 0.40 g | C1(=CC=CC=C1)C1=NN(C(=C1)C1=CC=CC=C1)CC1=C(C=C(CNC2=CC(=C(C=C2)CCC(=O)O)F)C=C1)OC(C)C | C35H34FN3O3
reactant | hydrogen chloride ethyl acetate | 2.1 mmol, 4 N, 0.53 mL | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 4.0 mL | C(C)(=O)OCC | C4H8O2
product | 3-[4-({4-[(3,5-diphenyl-1H-pyrazol-1-yl)methyl]-3-isopropoxybenzyl}amino)-2-fluorophenyl]propanoic acid dihydrochloride | 0.41 g, yield 90% | Cl.Cl.C1(=CC=CC=C1)C1=NN(C(=C1)C1=CC=CC=C1)CC1=C(C=C(CNC2=CC(=C(C=C2)CCC(=O)O)F)C=C1)OC(C)C | InChI=1S/C35H34FN3O3.2ClH/c1-24(2)42-34-19-25(22-37-30-17-15-26(31(36)20-30)16-18-35(40)41)13-14-29(34)23-39-33(28-11-7-4-8-12-28)21-32(38-39)27-9-5-3-6-10-27;;/h3-15,17,19-21,24,37H,16,18,22-23H2,1-2H3,(H,40,41);2*1H
